US06117881
1-(2-Chlorophenyl)-2,3,4,9-tetrahydro-1H-β-carboline
This product was prepared using the same procedure as for Intermediate 1 with tryptamine (1.0 g, 6.2 mmol), 2-chlorobenzaldehyde (0.7 mL, 1.0 equiv.) and TFA (1.0 mL, 2 equiv.) to give the title compound (1.2 g, 69%).

reactant | tryptamine | 6.2 mmol, 1.0 g | NCCC1=CNC2=CC=CC=C12 | C10H12N2
reactant | 2-chlorobenzaldehyde | 0.7 mL, 1.0 equiv. | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | TFA | 1.0 mL, 2 equiv. | C(=O)(C(F)(F)F)O | C2HF3O2
product | 1-(2-Chlorophenyl)-2,3,4,9-tetrahydro-1H-β-carboline | 1.2 g, 69% | ClC1=C(C=CC=C1)C1NCCC=2C3=CC=CC=C3NC12 | C17H15ClN2
